US04053470
u. 6-(m-Nitrophenyl)-1,2-dihydro-2-oxonicotinyl Chloride.
A 5 g. sample of 6-(m-nitrophenyl)-1,2-dihydro-2-oxonicotinic acid is suspended in 100 ml. thionyl chloride and stirred at room temperature overnight. The product 6-(m-nitrophenyl)-1,2-dihydro-2-oxonicotinyl chloride is carefully filtered off and washed with hexane and used directly in the preparation of compounds of the present invention.

reactant | 6-(m-nitrophenyl)-1,2-dihydro-2-oxonicotinic acid | [N+](=O)([O-])C=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C12H8N2O5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 6-(m-Nitrophenyl)-1,2-dihydro-2-oxonicotinyl Chloride | [N+](=O)([O-])C=1C=C(C=CC1)C=1NC(C(CCl)=CC1)=O | C12H9ClN2O3
